US05834468
2-Benzylbenzyl alcohol (commercial) (1 g) was suspended in 48% aqueous hydrobromic acid (10 ml) and stirred vigorously for 20 hours. The resultant suspended solid was extracted twice with hexane and the extracts dried (MgSO4) and evaporated to give 2-benzyl benzylbromide as yellow solid (1.3 g, 98%).

reactant | 2-Benzylbenzyl alcohol | 1 g | C(C1=CC=CC=C1)C1=C(CO)C=CC=C1 | C14H14O
reactant | hydrobromic acid | 10 ml | Br | BrH
product | 2-benzyl benzylbromide | 1.3 g, 98% | C(C1=CC=CC=C1)C1=C(CBr)C=CC=C1 | C14H13Br
